US05306816
Allyl (4R,5S,6S)-6-[(1R)-1-(tert-butyldimethylsilyloxy)ethyl]-4-methyl-3-methylthio-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (100 mg) was added to a mixture of 70% aqueous tetrabutylammonium fluoride (0.71 g) and acetic acid (121 mg) in tetrahydrofuran (2 ml) and the mixture was allowed to stand at ambient temperature for 24 hours. The solution was diluted with ethyl acetate (6 ml), washed with water, aqueous sodium bicarbonate solution and brine, and dried. The solvent was removed off under reduced pressure and the residue was crystallized from n-hexane to afford allyl (4R,5S,6S)-6-((1R)-1-hydroxyethyl)-4-methyl-3-methylthio-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (58.4 mg).

reactant | Allyl (4R,5S,6S)-6-[(1R)-1-(tert-butyldimethylsilyloxy)ethyl]-4-methyl-3-methylthio-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 100 mg | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@@H]1[C@H]2[C@H](C(=C(N2C1=O)C(=O)OCC=C)SC)C | C20H33NO4SSi
reactant | tetrabutylammonium fluoride | 0.71 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | acetic acid | 121 mg | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 6 ml | C(C)(=O)OCC | C4H8O2
product | allyl (4R,5S,6S)-6-((1R)-1-hydroxyethyl)-4-methyl-3-methylthio-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 58.4 mg | O[C@H](C)[C@@H]1[C@H]2[C@H](C(=C(N2C1=O)C(=O)OCC=C)SC)C | C14H19NO4S
